US07476399B2
(S)-2,3,5,6-tetrafluoro-4-methyl-N-(3-methylbutan-2-yl)benzamide
Prepared in a similar manner to Example 162 using (S)-3-methylbutan-2-amine and 2,3,5,6-tetrafluoro-p-toluic acid acid (93%). 1H NMR (CDCl3) δ 0.98 (d, J=6.9 Hz, 6H) 1.18 (d, J=6.8 Hz, 3H), 2.29 (m, 3H), 4.09 (m, 1H), 5.72 (bs, 1H). MS (304.1, M+H) m.p. 146-147° C.

reactant | (S)-3-methylbutan-2-amine | CC([C@H](C)N)C | C5H13N
reactant | 2,3,5,6-tetrafluoro-p-toluic acid | FC1=C(C(=C(C(=C1F)C(=O)O)F)F)C | C8H4F4O2
product | (S)-2,3,5,6-tetrafluoro-4-methyl-N-(3-methylbutan-2-yl)benzamide | FC1=C(C(=O)N[C@@H](C)C(C)C)C(=C(C(=C1F)C)F)F | C13H15F4NO
